US05559140
The title derivative was prepared from the compound of Example 11, Step A, using the Dess-Martin oxidation method given in Example 2, Step C (but with a larger excess of periodinane). It was purified by flash chromatography (silica gel, ethyl acetate/dichloromethane: 2/8, Rf: 0.35) and crystallization from acetone/pentane (46% yield). Analysis calculated for C38H38N4O8N2 : C, 63.38; H, 5.54; N, 7.82. Found: C, 63.49; H, 5.33; N, 7.75.

reactant | Dess-Martin | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | ethyl acetate dichloromethane | C(C)(=O)OCC.ClCCl
product | acetone pentane | 46% yield | CC(=O)C.CCCCC | InChI=1S/C5H12.C3H6O/c1-3-5-4-2;1-3(2)4/h3-5H2,1-2H3;1-2H3
